US04242510
4-Nitrobenzyl 7-[2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylate (8.40 g.) was suspended in a mixture of tetrahydrofuran (150 ml.) and water (30 ml.). To the suspension were added acetic acid (50 ml.) and a solution of sodium nitrite (1.20 g.) in water (15 ml.) under ice-cooling, and stirred at 20° to 22° C. for 1.5 hours. The resultant solution was poured into ice-water (300 ml.) and stirred for 20 minutes. The precipitating substance was collected by filtration, washed with water, dried and then recrystallized from ethyl acetate to give 4-nitrobenzyl 7-[2-(2-bromoacetyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer:3.1 g.), mp. 153° to 162° C.

reactant | 4-Nitrobenzyl 7-[2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylate | 8.40 g | BrCC(=O)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C18H16BrN3O7S
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1.20 g | N(=O)[O-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 4-nitrobenzyl 7-[2-(2-bromoacetyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate | 3.1 g | BrCC(=O)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NO | C18H15BrN4O8S
